Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Patient admitted for weight reduction surgery.
 
Major Surgical or Invasive Procedure:
Status Post Laparoscopic Gastric Band

 
History of Present Illness:
___ has class III  morbid obesity with weight of 288.4 lbs
as of ___ (his initial screen weight on ___ was 285.9
lbs), height of 61 inches and BMI of 54.7. His previous weight
loss efforts have included 7 months of Weight Watchers in ___
losing 25 lbs that he maintained for 2 months and 5 months of
Slim-Fast in ___ without any results. He has not taken
prescription weight loss medications or used over-the-counter 
appetite suppressants/herbal supplements. He does not remember
his weight at age ___ or his lowest adult weight but he weighed
232 lbs on ___ and 289 lbs on ___, his highest adult
weight.
 
Past Medical History:
hypothyroidism with h/o Graves'  
disease s/p ablation, severe sleep disordered breathing with  
recommendation for CPAP by recent sleep study, fatty liver by  
ultrasound, hyperlipidemia, neurofibromatosis, testicular  
torsion, colitis likely diverticular disease hospitalized x 2 
and  
lower back and knee pain  

 
Social History:
___
Family History:
Family history is noted for mother living with heart
disease, thyroid disease and obesity; grandparent deceased of
heart disease.
 
Physical Exam:
His blood pressure was 127/82, pulse 94, respirations 16 and O2
saturation 94% on room air. On physical examination ___ 
was
casually dressed and in no distress. His skin was warm, dry, no
rashes, + neurofibromas on face (small), trunk/abdomen medium
size with ___ spots on abdomen (large at RMQ, smaller
area LLQ); tattoos bilateral lower extremities with lesion right
anterior mid-shin. Anicteric sclerae, conjunctiva clear, pupils
were equal round and reactive to light, fundi difficult to
visualize, mucous membranes were moist, tongue pink and
oropharynx was without exudates or hyperemia. Trachea was in the
midline and the neck was supple without adenopathy, thyromegaly
or carotid bruits. Chest was symmetric and the lungs were clear
to auscultation, no wheezes, air movement was fair to good.
Cardiac exam was regular rate and rhythm, normal S1 and S2, no
murmurs, rubs or gallops. The abdomen was obese but soft and
non-tender, non-distended, + bowel sounds, no masses or hernias,
there was small healed incision scar umbilicus. There was no
spinal tenderness or flank pain. There was no edema of the lower
extremities, no venous stasis or clubbing, perfusion was good.
There was no evidence of joint swelling or inflammation of the
joints. There were no focal neurological deficits and his gait
was normal.  
 
Pertinent Results:
___ 12:36PM BLOOD Hct-43.9
___ 07:05AM BLOOD WBC-6.0 RBC-4.53* Hgb-12.1* Hct-37.3* 
MCV-82 MCH-26.7* MCHC-32.5 RDW-13.7 Plt ___
___ 07:05AM BLOOD Plt ___
 
Brief Hospital Course:
Patient admitted and underwent a laparoscopic gastric band. He 
tolerated this procedure very well. Postoperative course was 
complicated by urinary retention. Urology was consulted as 
reinsertion of foley catheter was difficult. He will go home 
with a foley catheter and appointment has been made for him with 
urology to discontinue catheter in one week.

Pain is well controlled on roxicet. Slowly progressed to 
bariatric stage 3 with good tolerance. Discharge instructions 
reviewed and discussed.

Will follow up with Dr. ___ in 2 weeks.
 
Medications on Admission:
Levothyroxine 300 mcg daily for  
hypothyroid; Citalopram 20 mg daily for depression (not taking); 
 
Simvastatin 40 mg daily for hyperlipidemia; Ibuprofen 800 mg  
three times daily with meals as needed for back, knee pain;  
Betamethasone 0.05% lotion to affected skin at bedtime;  
multivitamins with minerals daily and vitamin D  

 
Discharge Medications:
1. Levothyroxine 100 mcg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
2. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Oxycodone-Acetaminophen ___ mg/5 mL Solution Sig: ___ MLs 
PO Q4H (every 4 hours) as needed for pain.
Disp:*500 ML(s)* Refills:*0*
5. Colace 50 mg/5 mL Liquid Sig: Ten (10) ml PO twice a day as 
needed for constipation.
Disp:*500 ml* Refills:*0*
6. Multivitamin     Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: obesity

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent

 
Discharge Instructions:
Discharge Instructions: Please call your surgeon or return to 
the emergency department if you develop a fever greater than 
101.5, chest pain, shortness of breath, severe abdominal pain, 
pain unrelieved by your pain medication, severe nausea or 
vomiting, severe abdominal bloating, inability to eat or drink, 
foul smelling or colorful drainage from your incisions, redness 
or swelling around your incisions, or any other symptoms which 
are concerning to you.

Diet: Stay on Stage III diet until your follow up appointment. 
Do not self advance
diet, do not drink out of a straw or chew gum.

Medication Instructions:
Resume your home medications, CRUSH ALL PILLS.
You will be starting some new medications:
1.  You are being discharged on medications to treat the pain 
from your operation. These medications will make you drowsy and 
impair your ability to drive a motor vehicle or operate 
machinery safely. You MUST refrain from such activities while 
taking these medications.
2. You should begin taking a chewable complete multivitamin with 
minerals once a day. No gummy vitamins.
3. You should take a stool softener, Colace, twice daily for 
constipation as needed, or until you resume a normal bowel 
pattern.
4. You must not use NSAIDS (non-steroidal anti-inflammatory 
drugs) Examples are Ibuprofen, Motrin, Aleve, Nuprin and 
Naproxen. These agents will cause bleeding and ulcers in your 
digestive system.

Activity:
No heavy lifting of items ___ pounds for 6 weeks. You may 
resume moderate
exercise at your discretion, no abdominal exercises.

Wound Care:
You may shower, no tub baths or swimming. 
If there is clear drainage from your incisions, cover with 
clean, dry gauze. 
Your steri-strips will fall off on their own. Please remove any 
remaining strips ___ days after surgery.
Please call the doctor if you have increased pain, swelling, 
redness, or drainage from the incision sites. 

 
Followup Instructions:
___